US05559111
l) 3-Acetoxy-4-tert-butyl-benzyl bromide
16.4 g of N-bromosuccinimide, 1 g of α,α'-azoisobutyronitrile and 1 g of dibenzoyl peroxide are added in succession to a solution, stirred at 70° C., of 19 g of 3-acetoxy-4-tert-butyltoluene in 900 ml of CCl4. The reaction mixture is stirred under reflux for 31/2 hours under UV irradiation and is filtered, and the filtrate is concentrated by evaporation. The title compound is obtained from the residue by means of FC (900 g of silica gel, hexane/ethyl acetate=95:5): Rf (hexane/ethyl acetate=95:5)=0.40.

reactant | N-bromosuccinimide | 16.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 3-acetoxy-4-tert-butyltoluene | 19 g | C(C)(=O)OC=1C=C(C=CC1C(C)(C)C)C | C13H18O2
solvent | CCl4 | 900 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Acetoxy-4-tert-butyl-benzyl bromide | C(C)(=O)OC=1C=C(CBr)C=CC1C(C)(C)C | C13H17BrO2
